US09163021B2
(5-aminopyridin-3-yl)[1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone
To a solution of [1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{5-[(diphenylmethylene)amino]pyridin-3-yl}methanone (Enantiomer 1, Preparation 33, 150 mg, 0.260 mmol) in DCM (5 mL) was added TFA (0.2 mL) and the reaction stirred at room temperature for 4 hours. The reaction was purified directly by preparative HPLC to afford the title compound (40 mg, 52%).

reactant | [1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]{5-[(diphenylmethylene)amino]pyridin-3-yl}methanone | 0.260 mmol, 150 mg | [Si](C)(C)(C(C)(C)C)OCC(C)N1C=C(C=2C=NC=CC21)C(=O)C=2C=NC=C(C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C35H38N4O2Si
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (5-aminopyridin-3-yl)[1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | 40 mg, 52% | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO)C | C16H16N4O2
